US05239083
4-{2-[3 -[1-(4-butylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 36)
224 mg of compound 36 was obtained in a similar manner to those described in the Examples 1 and 2 using 513 mg of ethyl 4-(2-aminophenoxy)butyrate and 400 mg of 3-[1-(4-butylbenzyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 513 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(4-butylbenzyl)indol-5-yl]isocrotonic acid | 400 mg | C(CCC)C1=CC=C(CN2C=CC3=CC(=CC=C23)/C(=C/C(=O)O)/C)C=C1 | C23H25NO2
product | 4-{2-[3 -[1-(4-butylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | C(CCC)C1=CC=C(CN2C=CC3=CC(=CC=C23)/C(=C/C(=O)NC2=C(OCCCC(=O)O)C=CC=C2)/C)C=C1 | C33H36N2O4
